US04115568
(c) 3-(2-Aminoanilino)-2,5-dihydrothiophene-4-nitrile
3-Keto-4-cyanotetrahydrothiophene (80 g, 0.629 mol) and o-phenylenediamine (68 g, 0.629 mol) were dissolved by heating in 1.5 litres of industrial methylated spirit. To the solution, glacial acetic acid (3 ml) was added, the solution then being heated under reflux with mechanical stirring for 24 hours. The solution was then chilled and filtered to give the title product as a solid, m.p. 163° C.

reactant | 3-Keto-4-cyanotetrahydrothiophene | 0.629 mol, 80 g | O=C1CSCC1C#N | C5H5NOS
reactant | o-phenylenediamine | 0.629 mol, 68 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 3-(2-Aminoanilino)-2,5-dihydrothiophene-4-nitrile | NC1=C(NC=2CSCC2C#N)C=CC=C1 | C11H11N3S
